US07598383B2
Step A: Preparation of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid hydrazide:
A mixture of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (70 mg, 0.195 mmol), EDCI (112 mg, 0.585 mmol), and HOBt (79 mg, 0.585 mmol) in DMF (3 mL) was stirred for 30 minutes. Hydrazine (19 mg, 0.585 mmol) was added followed by Et3N (0.082 mL, 0.585 mmol). After 3 hours, the reaction mixture was diluted with EtOAc and washed with saturated NH4Cl solution, saturated NaHCO3 solution and brine. The organic layer was dried (MgSO4) and concentrated to yield 64 mg (89%) desired product.

reactant | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.195 mmol, 70 mg | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1F)=O)C)C(=O)O)F | C13H9BrF2N2O3
reactant | EDCI | 0.585 mmol, 112 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.585 mmol, 79 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hydrazine | 0.585 mmol, 19 mg | NN | H4N2
reactant | Et3N | 0.585 mmol, 0.082 mL | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid hydrazide | 64 mg, 89% | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1F)=O)C)C(=O)NN)F | C13H11BrF2N4O2
